US07141596B2
Step 3. Thioacetic acid S-(3′-sulfamoyl-biphenyl-4-ylmethyl) ester (20-C)
A solution of 4′-(bromomethyl)biphenyl-3-sulfonamide (1.28 g, 3.9 mmol) (WO 01/70753) in acetonitrile (16.4 mL) was treated with sodium bicarbonate (475 mg, 5.7 mmol) and thioacetic acid (0.34 mL, 4.7 mmol). The reaction mixture was stirred at 25° C. for 16 h. Additional sodium bicarbonate and thioacetic acid (0.4 eq. each) were added followed by acetonitrile (5 mL) and the reaction mixture was heated to 50° C. for 30 min. The reaction mixture was washed with water (10 mL) and brine (10 mL), dried with MgSO4, filtered, and concentrated to give a crude residue (quantitative) which was used in the next step without further purification. 1H NMR (500 MHz, CDCl3): δ 8.15 (dd, J=2.0, 2.0 Hz, 1H), 7.92 (ddd, J=7.8, 2.0, 1.0 Hz, 1H), 7.80 (ddd, J=7.8, 2.0, 1.0 Hz, 1H), 7.61 (dd, J=7.8, 7.8 Hz, 1H), 7.58–7.55 (m, 2H), 7.44–7.41 (m, 2H), 4.90 (br s, 2H), 4.19 (s, 2H), 2.40 (s, 3H); LCMS found for C15H15NO3S2Na (M+Na)+: m/z=344.

reactant | 4′-(bromomethyl)biphenyl-3-sulfonamide | 3.9 mmol, 1.28 g | BrCC1=CC=C(C=C1)C1=CC(=CC=C1)S(=O)(=O)N | C13H12BrNO2S
reactant | sodium bicarbonate | 5.7 mmol, 475 mg | C([O-])(O)=O.[Na+]
reactant | thioacetic acid | 4.7 mmol, 0.34 mL | C(C)(=S)O | C2H4OS
reactant | thioacetic acid | 0.4 eq. | C(C)(=S)O | C2H4OS
solvent | acetonitrile | 16.4 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | Thioacetic acid S-(3′-sulfamoyl-biphenyl-4-ylmethyl) ester | S(N)(=O)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)CSC(C)=O | C15H15NO3S2
